datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1=CC=C([C:61]([CH-:10][C:71](C2=CC=CC=C2)=[O:72])=[O:62])C=C1.Cl[C:32]1=[N+:21]([F:20])[C:42](Cl)=[CH:43][CH:34]=[CH:33]1>>C1=CC=C([C:61]([CH:10]([F:20])[C:71](C2=CC=CC=C2)=[O:72])=[O:62])C=C1.Cl[C:32]1=[N:21][C:42](Cl)=[CH:43][CH:34]=[CH:33]1 10=20;20,21=21"
"C1=CC=C([O:61][P:10]([O:71]C2=CC=CC=C2)[O:81]C2=CC=CC=C2)C=C1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([P+:10]([O:61]C2=CC=CC=C2)([O:71]C2=CC=CC=C2)[O:81]C2=CC=CC=C2)[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"CC[Si:11](C)(CC)[H:10].F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>CC[Si+:11](C)CC.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C:20]([H:10])([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10,11=10,20"
"C[CH+:20][C:31]12C3C4C5C1[Fe:32]45321678C2C1C6C7C28.C[O:14][C:13]1=[CH:12][CH:11]=[CH:10][CH:62]=[CH:61]1>>C[O+:14]=[C:13]1[CH:12]=[CH:11][CH:10]([CH:20](C)[C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[CH:62]=[CH:61]1 10,11=10,20;12,13=11,12;14=13,14"
"CN(C)C1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1.C[C:74]1=[CH:73][N:10]=[CH:61][NH:62]1>>CN(C)C1=CC=C([CH:20]([N+:10]2=[CH:61][NH:62][C:74](C)=[CH:73]2)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10=20;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.C[C:11]1=[CH:10]CCCC1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH:10]2CCCC[C+:11]2C)([C:41]2=[CH:42][C:43](C)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20"
"CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33].C[C:10](C)=[C:11](C)C>>CC[O:34][C:32]([C:21]([CH:20]([C:10](C)(C)[C+:11](C)C)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC2)CCC[C:45]3=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH+:10]1[CH2:20][CH:21]=[C:22](C1=CC=CC=C1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].C[N:10](C)C>>C[N+:10](C)(C)[CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C(C2=CN(C[C@@H]3CCC[NH:10]3)N=N2)C=C1.C1=CC=C(C[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC2=CC=CC=C2)=[O:23])C=C1>>C1=CC=C(C[O:33][C:22](=[N:21][N:20]([NH+:10]2CCC[C@H]2CN2C=C(C3=CC=CC=C3)N=N2)[C:41](=[O:42])[O:43]CC2=CC=CC=C2)[O-:23])C=C1 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[O:33][C:22]([CH:21]=[CH2:20])=[O:23].CCC(CO)[NH2:10]>>CCC(CO)[NH2+:10][CH2:20][CH:21]=[C:22]([O-:23])[O:33]C(C)(C)C 10=20;20,21=21,22;22,23=23"
C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.C[N:62](C)[C:61](=[NH:10])[N:72](C)C>>C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]=[C:61]([N:62](C)C)[N:72](C)C)[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.C1=C[C:71]2=[C:72](C=C1)[NH:62][N:61]=[N:10]2>>C1=CC=C([C:20]2([N+:10]3=[N:61][NH:62][C:72]4=[C:71]3C=CC=C4)[S:31]CCC[S:41]2)C=C1 10=20
"CCCC/[C:10](=[C:11](/[O-:12])[O:61]CC)[C:72](=[O:73])[O:83]CC.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CCCC[C:10]([C:11](=[O:12])[O:61]CC)([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:72](=[O:73])[O:83]CC 10,11=10,20;12=11,12"
"C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2.C[N:21](C)[CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21"
CC(C)(C)[O:92][C:61]([CH-:10][N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62].C[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CC(C)(C)[O:92][C:61]([CH:10]([CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[N:71]=[C:72](C1=CC=CC=C1)[C:73]1=[CH:74][CH:75]=[CH:76][CH:85]=[CH:84]1)=[O:62] 10=20
"CC[O:33][C:22]([CH:21]=[CH2:20])=[O:23].C[C:11]1=[CH:10][C:61]2=[C:62]([NH:12]1)[CH:63]=[CH:64][CH:73]=[CH:72]2>>CC[O:33][C:22](=[CH:21][CH2:20][CH:10]1[C:11](C)=[NH+:12][C:62]2=[C:61]1[CH:72]=[CH:73][CH:64]=[CH:63]2)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
